US06670364B2
A solution of 4-chloro-1,3-dimethylpyrazolo[5,4-b]pyridine-5-carboxylic acid (450 mg) and morpholine (870 mg) in DMF (15 mL) was stirred at room temperature for 5 h, and then concentrated under reduced pressure. The residue was treated with water (10 mL), and the resulting solid was filtered, washed with water, and dried under high vacuum. The solid was suspended in anhydrous dichloromethane (20 mL) and treated with oxalyl chloride (1.0 mL) and anhydrous DMF (0.1 mL). The mixture was stirred at room temperature for 1 h, filtered, and the filtrate was concentrated under reduced pressure. The residue was cooled in an ice-bath and slowly treated with a saturated solution of ammonia in THF (20 mL). The suspension was removed from the ice-bath, stirred at room temperature for 1 h, and filtered. The solid was washed with water and dried under high vacuum to give 1,3-dimethyl-4-morpholin-4-ylpyrazolo[5,4-b]pyridine-5-carboxamide as a white powder. A portion of this material (0.33 g) was dissolved in hot toluene (30 mL) and azeotroped for 1 h. The solution was cooled to room temperature and treated with 4-fluoro-3-(trifluoromethyl)phenylisocyanate (0.27 g). The mixture was refluxed for 16 h and then cooled to room temperature. The precipitated solid was filtered, washed with toluene, and dried under high vacuum to give the title compound as a white powder. 1H NMR (DMSO-d6) δ 2.62 (s, 3H), 3.27 (m, 4H), 3.80 (m, 4H), 3.93 (s, 3H), 7.50 (dd, J=9.9, 9.9 Hz, 1H), 7.92 (m, 1H), 8.13 (dd, J=6.6, 2.6 Hz, 1H), 8.38 (s, 1H), 10.72 (s, 1H), 11.34 (s, 1H). MS (ESI) m/z479.

reactant | 4-chloro-1,3-dimethylpyrazolo[5,4-b]pyridine-5-carboxylic acid | 450 mg | ClC1=C2C(=NC=C1C(=O)O)N(N=C2C)C | C9H8ClN3O2
reactant | morpholine | 870 mg | N1CCOCC1 | C4H9NO
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1,3-dimethyl-4-morpholin-4-ylpyrazolo[5,4-b]pyridine-5-carboxamide | CN1N=C(C=2C1=NC=C(C2N2CCOCC2)C(=O)N)C | C13H17N5O2
